US05470987
9,9-Bis{4-(4-fluorophthalimido)phenyl}fluorene
A mixture of 9,9-bis(4-aminophenyl)fluorene (17.4 g, 50 mmol), 4-fluorophthalic anhydride (18.3 g, 110 mmol), and 250 ml of acetic acid was stirred and heated under reflux for five hours and then stirred at ambient temperature overnight. A colorless precipitate formed which was filtered, washed twice with 150 ml of ethanol, washed twice with 100 ml of hexane, suction-dried for two hours, and then dried in a vacuum oven at 120° C. for 16 hours. The title compound was isolated as a colorless powder (29.2 g, 90.6% yield) that had melting point of 323.5°-326° C. and a 1H NMR spectrum (DMSO-d6) corresponding to δ8.02 (m, 4H), 7.86 (dd, 2H), 7.72 (m, 2H), 7.60 (d, 2H), 7.46 (t, 2H), and 7.35 (m, 10H).

reactant | 9,9-bis(4-aminophenyl)fluorene | 50 mmol, 17.4 g | NC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)N | C25H20N2
reactant | 4-fluorophthalic anhydride | 110 mmol, 18.3 g | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 9,9-Bis{4-(4-fluorophthalimido)phenyl}fluorene | FC=1C=C2C(C(=O)N(C2=O)C2=CC=C(C=C2)C2(C3=CC=CC=C3C=3C=CC=CC23)C2=CC=C(C=C2)N2C(C=3C(C2=O)=CC(=CC3)F)=O)=CC1 | C41H22F2N2O4
